US04681952
254 g (4 mols) of potassium hydroxide powder (88% pure) are suspended in 1 liter of toluene. To this are slowly added 40 g of tetrabutylammonium bromide and a mixture of 644 g (4 mols) of 4-chlorobenzyl chloride and 430 g (5 mols) of methyl isopropyl ketone at 85° C. The reaction mixture is stirred a further 3 hours at 85° C. After cooling down, it is filtered and the filtrate is washed to neutrality. 732.5 g (87% of theory) of 1-(4-chlorophenyl)-2,2-dimethyl-3-butanone of boiling point 87°-90° C./0.05 mbar are obtained by fractional distillation under high vacuum.

reactant | potassium hydroxide | 4 mols, 254 g | [OH-].[K+]
reactant | 4-chlorobenzyl chloride | 4 mols, 644 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | methyl isopropyl ketone | 5 mols, 430 g | C(C)(C)C(=O)C | C5H10O
solvent | toluene | 1 liter | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium bromide | 40 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-(4-chlorophenyl)-2,2-dimethyl-3-butanone | 732.5 g, 87% | ClC1=CC=C(C=C1)CC(C(C)=O)(C)C | C12H15ClO
